* c:\Users\david\Desktop\PhD\progetti\SpiceAgent\PyLTSpice\RC_circuit.asc
R1 N002 N001 10k
C1 N002 0 100n
V1 N001 0 PULSE(0 5 0 1u 1u 5m 10m)
.tran 10m
.backanno
.end
